US07678749B2
Preparation of 2-methylene heptanal (XVI)
A 3-liter three-neck flask fitted with an overhead stirrer and condenser was charged with di-N-butyl amine (33 g, 0.25 mol) and acetic acid (31 g, 0.5 mol). Roughly 500 ml of 33% formaldehyde solution in water (178 g formaldehyde, 5.9 mol) was then added and the resulting solution was heated to 50° C. with stirring. After this temperature was reached heptanal (500 g, 4.3 mol) was fed in over about 1.5 h. A slight exotherm was noticed during the feed. Monitoring by GC showed the consumption of heptanal and the production of 2-methylene heptanal, finally reaching roughly 95% conversion after the addition was complete. The reaction mixture was allowed to cool to room temperature, poured into a separatory funnel, and washed once with 5% HCl solution. The organic layer was then washed once with saturated sodium carbonate, then taken directly on to the next step.

reactant | acetic acid | 0.5 mol, 31 g | C(C)(=O)O | C2H4O2
reactant | water | 5.9 mol, 178 g | O | H2O
reactant | heptanal | 4.3 mol, 500 g | C(CCCCCC)=O | C7H14O
solvent | formaldehyde | 500 ml | C=O | CH2O
product | 2-methylene heptanal | C=C(C=O)CCCCC | C8H14O
